US06172228B2
A 50% aqueous solution of dimethylamine (5.95 g, 66 mmol) was added dropwise to a solution of diethyl ether (60 ml) and 5-chloropentanesulfonyl chloride (6.15 g, 30 mmol) with stirring under ice-cooling. Thereafter, the mixture was stirred at the same temperature for 20 minutes. The reaction solution was washed twice with water (10 ml) and then with brine (10 ml), and thereafter dried over anhydrous magnesium sulfate. Subsequently, the solvent was removed by evaporation in vacuo. The crude product was purified by column chromatography on silica gel with ethyl acetate-n-hexane (1:4), to give N,N-dimethyl-5-chloropentanesulfonamide (6.10 g) as a pale yellow oil.

reactant | dimethylamine | 66 mmol, 5.95 g | CNC | C2H7N
reactant | 5-chloropentanesulfonyl chloride | 30 mmol, 6.15 g | ClCCCCCS(=O)(=O)Cl | C5H10Cl2O2S
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | N,N-dimethyl-5-chloropentanesulfonamide | 6.10 g | CN(S(=O)(=O)CCCCCCl)C | C7H16ClNO2S
